US08389524B2
(1R)-1-[(4-{[(4-Fluoro-1H-benzimidazol-2-yl)methyl]amino}-1-piperidinyl)methyl]-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione dihydrochloride
To a 10 mL round-bottomed flask were added (1R)-1-[(4-amino-1-piperidinyl)methyl]-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione (for a preparation see Example 5A(j)) (80 mg, 0.238 mmol), 4-fluoro-1H-benzimidazole-2-carbaldehyde (for a synthesis see WO2003087098, Example 320) (42.9 mg, 0.261 mmol), and sodium bicarbonate (100 mg, 1.190 mmol) in DCM (4 ml) and methanol (1 ml) to give a brown suspension. Sodium sulfate (200 mg, 1.408 mmol) was added and the reaction was stirred at rt overnight. After 15 h sodium triacetoxyborohydride (101 mg, 0.475 mmol) was added and the reaction was stirred at 25° C. under nitrogen for 4 h. The reaction mixture was adsorbed onto silica and purified using 0-10% MeOH/DCM (1% NH4OH) to give the free base of the title compound. The LCMS and 1H NMR were consistent with the desired product.

reactant | (1R)-1-[(4-amino-1-piperidinyl)methyl]-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione | NC1CCN(CC1)C[C@@H]1CN2C(C=CC=3C=CC(N1C23)=O)=O | C16H20N4O2
reactant | 4-fluoro-1H-benzimidazole-2-carbaldehyde | FC1=CC=CC=2NC(=NC21)C=O | C8H5FN2O
reactant | sodium bicarbonate | 1.190 mmol, 100 mg | C([O-])(O)=O.[Na+]
reactant | Sodium sulfate | 1.408 mmol, 200 mg | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium triacetoxyborohydride | 0.475 mmol, 101 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | DCM | 4 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 1 ml | CO | CH4O
product | (1R)-1-[(4-{[(4-Fluoro-1H-benzimidazol-2-yl)methyl]amino}-1-piperidinyl)methyl]-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione dihydrochloride | Cl.Cl.FC1=CC=CC=2NC(=NC21)CNC2CCN(CC2)C[C@@H]2CN1C(C=CC=3C=CC(N2C13)=O)=O | InChI=1S/C24H25FN6O2.2ClH/c25-18-2-1-3-19-23(18)28-20(27-19)12-26-16-8-10-29(11-9-16)13-17-14-30-21(32)6-4-15-5-7-22(33)31(17)24(15)30;;/h1-7,16-17,26H,8-14H2,(H,27,28);2*1H/t17-;;/m1../s1
